US08278328B2
Description 140. 4-Methyl-2-nitrobenzaldehyde. (D140)
(4-Methyl-2-nitrophenyl)methanol D139 (1.028 g, 6.15 mmol), pyridinium dichromate (3.47 g, 9.22 mmol)+molecular sieves (7 g, 6.15 mmol) in dry dichloromethane (DCM) (14 mL) was stirred under argon at R. T. overnight. The reaction mixture was filtered by silica/kieselguhr (1:1) and extracted with water and DCM. Organic layers were combined and evaporated to give a pale yellow solid which was used without further purification (0.665 g, 65.5%).

reactant | (4-Methyl-2-nitrophenyl)methanol | CC1=CC(=C(C=C1)CO)[N+](=O)[O-] | C8H9NO3
reactant | pyridinium dichromate | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
solvent | dichloromethane | 14 mL | ClCCl | CH2Cl2
product | 4-Methyl-2-nitrobenzaldehyde | CC1=CC(=C(C=O)C=C1)[N+](=O)[O-] | C8H7NO3
